### PR TITLE
[Merged by Bors] - feat: add `Submodule.image_span_subset(_span)` and golf

### PR DESCRIPTION
**Pull request by alreadydone**
Since `Submodule.map` requires surjectivity of the RingHom, the new lemmas have to be stated this way. (The RingHom is `frobenius` in my intended application, which is not necessarily surjective.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Span.lean [hunk 1]
```diff
@@ -92,20 +92,22 @@ theorem span_coe_eq_restrictScalars [Semiring S] [SMul S R] [Module S M] [IsScal
   span_eq (p.restrictScalars S)
 #align submodule.span_coe_eq_restrict_scalars Submodule.span_coe_eq_restrictScalars
 
+theorem image_span_subset (f : F) (s : Set M) (N : Submodule R₂ M₂) :
+    f '' span R s ⊆ N ↔ ∀ m ∈ s, f m ∈ N := image_subset_iff.trans <| span_le (p := N.comap f)
+
+theorem image_span_subset_span (f : F) (s : Set M) : f '' span R s ⊆ span R₂ (f '' s) :=
+  (image_span_subset f s _).2 fun x hx ↦ subset_span ⟨x, hx, rfl⟩
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Span.lean:99]:
```suggestion
/-- A version of `Submodule.RingHomSurjective` that does not require the `RingHomSurjective`
assumption. -/
theorem image_span_le (f : F) (s : Set M) (N : Submodule R₂ M₂) :
    f '' span R s ≤ N ↔ MapsTo f s N := image_subset_iff.trans <| span_le (p := N.comap f)

theorem image_span_le_span (f : F) (s : Set M) : f '' span R s ≤ span R₂ (f '' s) :=
  (image_span_le f s _).2 fun x hx ↦ subset_span ⟨x, hx, rfl⟩
```

File: Mathlib/LinearAlgebra/Span.lean [hunk 2]
```diff
@@ -92,20 +92,22 @@ theorem span_coe_eq_restrictScalars [Semiring S] [SMul S R] [Module S M] [IsScal
...
 #align submodule.map_span Submodule.map_span
 
 alias _root_.LinearMap.map_span := Submodule.map_span
 #align linear_map.map_span LinearMap.map_span
 
 theorem map_span_le [RingHomSurjective σ₁₂] (f : F) (s : Set M) (N : Submodule R₂ M₂) :
-    map f (span R s) ≤ N ↔ ∀ m ∈ s, f m ∈ N := by
-  rw [map_span, span_le, Set.image_subset_iff]
-  exact Iff.rfl
+    map f (span R s) ≤ N ↔ ∀ m ∈ s, f m ∈ N := image_span_subset f s N
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Span.lean:110]:
```suggestion
    map f (span R s) ≤ N ↔ MapsTo f s N := image_span_subset f s N
```

**Review by ocfnash — APPROVED** [review]
Thanks, please apply the suggestions and then feel free to merge!

bors d+

File: Mathlib/LinearAlgebra/Span.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Span.lean:110]: This isn't syntactically the same because N will be coerced to a set. I'll apply the suggestion if you do prefer it.

File: Mathlib/LinearAlgebra/Span.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Span.lean]: Oh, and these are sets not submodules, so `⊆` should be used instead of `≤` and the name should stay the same.

File: Mathlib/LinearAlgebra/Span.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Span.lean:112]: I can't make a strong argument either way. I like using `MapsTo` because it has a useful API, but there are plenty of places in the linear algebra library where we use the spelling you propose; do as you prefer.

File: Mathlib/LinearAlgebra/Span.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Span.lean:101]: The issue is that if the RingHom isn't surjective then the image is not necessarily a submodule.

File: Mathlib/LinearAlgebra/Span.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Span.lean:112]: Note that I didn't change the statement of this lemma, so it's not my proposal. Anyway this PR is not for changing existing statements, and that should probably be discussed on Zulip ...

File: Mathlib/LinearAlgebra/Span.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Span.lean:101]: Yes I realise this!

FWIW here's what happened at my end:
 1. These are submodules, they should use `≤`, I'll suggest that!
 2. Wait, shouldn't these be stated with `Submodule.map`? Oh I see: without the required surjectivity this is a statement about sets. This is slightly subtle so I'll suggest adding a comment.
 
except that I missed out on:
 3. Realise that step 1 no longer applies, so I should remove my suggestion from step 1.

File: Mathlib/LinearAlgebra/Span.lean [hunk 3]
```diff
@@ -92,20 +92,24 @@ theorem span_coe_eq_restrictScalars [Semiring S] [SMul S R] [Module S M] [IsScal
   span_eq (p.restrictScalars S)
 #align submodule.span_coe_eq_restrict_scalars Submodule.span_coe_eq_restrictScalars
 
+/-- A version of `Submodule.RingHomSurjective` that does not require the `RingHomSurjective`
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Span.lean:95]:
```suggestion
/-- A version of `Submodule.map_span_le` that does not require the `RingHomSurjective`
```

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Span.lean:95]: Clearly I had not had enough coffee this morning.
